US06743608B2
n-Decyl (2S)-2-Ethoxy-3-(4-hydroxyphenyl)propanoate/Ethyl (2R)-2-Ethoxy-3-(4-hydroxyphenyl)propanoate
To ethyl (2RS) (+/−) 2-ethoxy-3-(4-hydroxyphenyl)propanoate (5 mg) in solution in heptane (dried on 4 Å molecular sieves) (1 ml), triethylamine (0.4 μl) and n-decanol (8 μl), were added 4 Å molecular sieves and Rhizopus arrhizus lipase (Fluka 62305; 2.2 U/g) (20 mg). The reaction mixture was shaken at room temperature and analysed at different times. The reaction mixtures were analysed by the gradient HPLC method 2 and by the chiral HPLC method 4.

reactant | ethyl (2RS) (+/−) 2-ethoxy-3-(4-hydroxyphenyl)propanoate | 5 mg | C(C)OC(C(=O)OCC)CC1=CC=C(C=C1)O | C13H18O4
reactant | triethylamine | 0.4 μl | C(C)N(CC)CC | C6H15N
reactant | n-decanol | 8 μl | C(CCCCCCCCC)O | C10H22O
solvent | heptane | 1 ml | CCCCCCC | C7H16
product | n-Decyl (2S)-2-Ethoxy-3-(4-hydroxyphenyl)propanoate Ethyl (2R)-2-Ethoxy-3-(4-hydroxyphenyl)propanoate | C(C)O[C@H](C(=O)OCCCCCCCCCC)CC1=CC=C(C=C1)O.C(C)O[C@@H](C(=O)OCC)CC1=CC=C(C=C1)O | InChI=1S/C21H34O4.C13H18O4/c1-3-5-6-7-8-9-10-11-16-25-21(23)20(24-4-2)17-18-12-14-19(22)15-13-18;1-3-16-12(13(15)17-4-2)9-10-5-7-11(14)8-6-10/h12-15,20,22H,3-11,16-17H2,1-2H3;5-8,12,14H,3-4,9H2,1-2H3/t20-;12-/m01/s1
